US05658935
e) Synthesis of [3-(piperidin-4-yl)-2,5-dioxopyrrolidin-1-yl]acetic acid
2.8 g of [3-(4-pyridyl)-2,5-dioxopyrrolidin-1-yl]acetic acid are suspended in 160 ml of acetic acid and hydrogenated in an autoclave at 100° C. and a hydrogen pressure of 150 bar for 24 h using 100 mg of 5% rhodium on carbon as a catalyst. The catalyst is then filtered off and the filtrate is concentrated to dryness in vacuo. The product thus obtained is taken up in a little water and freeze-dried.

reactant | [3-(4-pyridyl)-2,5-dioxopyrrolidin-1-yl]acetic acid | 2.8 g | N1=CC=C(C=C1)C1C(N(C(C1)=O)CC(=O)O)=O | C11H10N2O4
reactant | hydrogen | [H][H] | H2
reactant | water | O | H2O
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
catalyst | rhodium on carbon | 100 mg | [Rh] | Rh
product | [3-(piperidin-4-yl)-2,5-dioxopyrrolidin-1-yl]acetic acid | N1CCC(CC1)C1C(N(C(C1)=O)CC(=O)O)=O | C11H16N2O4
